US08119692B2
3-[1,3]-Dioxolan-2-yl-1-o-tolyl-propan-1-ol (Intermediate A10)
To a suspension of Mg turnings (134.0 mg, 5.6 mg-at.) and catalytic amount of iodine in 20 mL THF was added dropwise 2-(2-bromoethyl)-[1,3]dioxolane (500.0 mg, 2.8 mmol) with heating over a period of 30 min. After stirring the mixture for 30 min at 63° C. the reaction was cooled to −30° C. and 2-methyl-benzaldehyde (275.0 mg, 2.5 mmol) was slowly added as a solution in 5 mL THF. The temperature was maintained at −30° C. for 1 h and then slowly raised to room temperature over a period of 3 h. The excess Grignard reagent was destroyed by the careful addition of saturated aqueous NH4Cl (40 mL). The resulting mixture was extracted with ethyl acetate (3×30 mL) and the combined organic layers washed with brine (2×20 mL). After evaporation of the solvent, the product was isolated by flash column chromatography eluting with 0 to 50% EtOAc/hexanes affording 290 mg of the title compound as a light yellow oil.

reactant | iodine | II | I2
reactant | 2-(2-bromoethyl)-[1,3]dioxolane | 2.8 mmol, 500.0 mg | BrCCC1OCCO1 | C5H9BrO2
reactant | 2-methyl-benzaldehyde | 2.5 mmol, 275.0 mg | CC1=C(C=O)C=CC=C1 | C8H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[1,3]-Dioxolan-2-yl-1-o-tolyl-propan-1-ol | O1C(OCC1)CCC(O)C1=C(C=CC=C1)C | C13H18O3
